* AD587J SPICE Macromodel 11/93, Rev. A
* AAG / PMI
*
* This version of the AD587 voltage reference model simulates the worst case
* parameters of the 'J' grade.  The worst case parameters used correspond
* to those parameters in the data sheet.
*
* Copyright 1993 by Analog Devices, Inc.
*
* Refer to "README.DOC" file for License Statement.  Use of this model
* indicates your acceptance with the terms and provisions in the License Statement.
*
*  NODE NUMBERS
*               VIN
*               |  GND
*               |  |  TRIM
*               |  |  |  VOUT
*               |  |  |  |  NOISE REDUCTION
*               |  |  |  |  |
.SUBCKT AD587J  2  4  5  6  8
*
* BURIED ZENER REFERENCE
*
I1 4 50 DC 6.9923E-3
R1 50 4 1E3 TC=20E-6
EN 10 50 41 0 1
G1 4 10 2 4 7E-8
F1 4 10 POLY(2) VS1 VS2 (0,7E-5,7E-5)
R2 10 8 4E3
I2 8 0 DC 0
*
* NOISE VOLTAGE GENERATOR
*
VN1 40 0 DC 2
DN1 40 41 DEN
DN2 41 42 DEN
VN2 0 42 DC 2
*
* INTERNAL OP AMP AND DOMINANT POLE @ 1.5 Hz
*
G2 4 11 8 26 1E-3
R3 11 4 3.1623E8
C1 11 4 3.3553E-10
D1 11 12 DX
V1 2 12 DC 2.2
*
* SECONDARY POLE @ 3 MHz
*
G3 4 13 11 4 1E-6
R4 13 4 1E6
C2 13 4 5.3052E-14
*
* OUTPUT STAGE
*
ISY 2 4 3E-3
FSY 2 4 V1 -1
RSY 2 4 77.778E3
*
G4 4 14 13 4 1E-5
R5 14 4 1E5
FSC1 14 4 VSC1 1
R7 20 21 13.35
R8 21 22 10
FSC2 14 4 VSC2 1
Q1 4 14 15 QP
I3 2 15 DC 100E-6
Q2 2 15 17 QN
I4 17 4 DC 100E-6
Q3 4 15 18 QP
I5 2 18 DC 100E-6
Q4 2 18 19 QN
VS1 20 19 DC 0
VS2 22 23 DC 0
Q5 25 17 23 QP
RF 22 26 6E3
RT 26 5 140E3
RI 26 4 14E3
LO 22 6 1E-7
*
* SHORT-CIRCUIT CURRENT LIMITING
*
VSC1 2 24 DC 0
QSC1 24 20 21 QN
*
VSC2 2 16 DC 0
QSC2 16 25 4 QN
R9 25 4 10
*
.MODEL QN NPN(IS=1E-15 BF=1E3)
.MODEL QP PNP(IS=1E-15 BF=1E3)
.MODEL DX D(IS=1E-15)
.MODEL DEN D(IS=1E-12 RS=5.77069E5 AF=1 KF=1.87644E-15)
.ENDS AD587J
*
* AD587K SPICE Macromodel 11/93, Rev. A
* AAG / PMI
*
* This version of the AD587 voltage reference model simulates the worst case
* parameters of the 'K' grade.  The worst case parameters used correspond
* to those parameters in the data sheet.
*
* Copyright 1993 by Analog Devices, Inc.
*
* Refer to "README.DOC" file for License Statement.  Use of this model
* indicates your acceptance with the terms and provisions in the License Statement.
*
*  NODE NUMBERS
*               VIN
*               |  GND
*               |  |  TRIM
*               |  |  |  VOUT
*               |  |  |  |  NOISE REDUCTION
*               |  |  |  |  |
.SUBCKT AD587K  2  4  5  6  8
*
* BURIED ZENER REFERENCE
*
I1 4 50 DC 6.99565E-3
R1 50 4 1E3 TC=10E-6
EN 10 50 41 0 1
G1 4 10 2 4 7E-8
F1 4 10 POLY(2) VS1 VS2 (0,7E-5,7E-5)
R2 10 8 4E3
I2 8 0 DC 0
*
* NOISE VOLTAGE GENERATOR
*
VN1 40 0 DC 2
DN1 40 41 DEN
DN2 41 42 DEN
VN2 0 42 DC 2
*
* INTERNAL OP AMP AND DOMINANT POLE @ 1.5 Hz
*
G2 4 11 8 26 1E-3
R3 11 4 3.1623E8
C1 11 4 3.3553E-10
D1 11 12 DX
V1 2 12 DC 2.2
*
* SECONDARY POLE @ 3 MHz
*
G3 4 13 11 4 1E-6
R4 13 4 1E6
C2 13 4 5.3052E-14
*
* OUTPUT STAGE
*
ISY 2 4 3E-3
FSY 2 4 V1 -1
RSY 2 4 77.778E3
*
G4 4 14 13 4 1E-5
R5 14 4 1E5
FSC1 14 4 VSC1 1
R7 20 21 13.35
R8 21 22 10
FSC2 14 4 VSC2 1
Q1 4 14 15 QP
I3 2 15 DC 100E-6
Q2 2 15 17 QN
I4 17 4 DC 100E-6
Q3 4 15 18 QP
I5 2 18 DC 100E-6
Q4 2 18 19 QN
VS1 20 19 DC 0
VS2 22 23 DC 0
Q5 25 17 23 QP
RF 22 26 6E3
RT 26 5 140E3
RI 26 4 14E3
LO 22 6 1E-7
*
* SHORT-CIRCUIT CURRENT LIMITING
*
VSC1 2 24 DC 0
QSC1 24 20 21 QN
*
VSC2 2 16 DC 0
QSC2 16 25 4 QN
R9 25 4 10
*
.MODEL QN NPN(IS=1E-15 BF=1E3)
.MODEL QP PNP(IS=1E-15 BF=1E3)
.MODEL DX D(IS=1E-15)
.MODEL DEN D(IS=1E-12 RS=5.77069E5 AF=1 KF=1.87644E-15)
.ENDS AD587K